US06521663B2
1. (2-Methyl-5-nitrophenyl)methanol
2-Methyl-5-nitrobenzoic acid (2.00 g, 11.0 mmol) was warmed under nitrogen, dissolved in anhydrous THF (25 mL), and treated with a 1N solution of borane in THF (16.5 mL). After stirring 18 hours at ambient temperature the reaction was quenched with a solution of potassium carbonate (1.8 g, 13 mmol) in water (50 mL), and the THF removed in vacuo. The remaining aqueous solution was extracted with DCM, and the organic layer washed with pH 7 buffer and brine, dried over sodium sulfate, and filtered. The evaporated filtrate gave the title compound as a pale yellow solid (1.76 g, 95%). 1H NMR (300 MHz, CDCl3) δ 8.29 (d, 1H, J=2.5 Hz), 8.04 (dd, 1H, J=8.3 Hz, 2.5 Hz), 7.31 (d, 1H, J=8.31 Hz), 4.77 (d, 2H, J=5.5 Hz), 2.41 (s, 3H), 2.09 (t, 1H, J=5.6 Hz).

reactant | 2-Methyl-5-nitrobenzoic acid | 11.0 mmol, 2.00 g | CC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C8H7NO4
reactant | borane | B | BH3
reactant | potassium carbonate | 13 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 16.5 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | (2-Methyl-5-nitrophenyl)methanol | 1.76 g, 95% | CC1=C(C=C(C=C1)[N+](=O)[O-])CO | C8H9NO3
